US08703797B2
C-(7-Isopropyl-1,3-dimethyl-1H-pyrazolo[4,3-b]pyridin-5-yl)-methylamine:
7-Isopropyl-1,3-dimethyl-1H-pyrazolo[4,3-b]pyridine-5-carbonitrile (from the previous step, 91.05 g, 5.15 mmol) was dissolved in EtOH:THF:conc.HCl (25 mL:10 mL:1.5 mL). 400 mg of 10% Pd/C was added and the reaction mixture was stirred under hydrogen balloon overnight. The catalyst was filtered out and the filtrate was concentrated under reduced pressure to afford the title compound as a white solid. Spectroscopic data: 1H-NMR (300 MHz, CD3OD): δ ppm 1.41 (d, J=6.74 Hz, 6 H), 2.56 (s, 3 H), 3.77 (hept, J=6.74 Hz, 1 H), 4.02 (s, 2 H), 4.21 (s, 3 H), 7.36 (s, 1 H).

reactant | 7-Isopropyl-1,3-dimethyl-1H-pyrazolo[4,3-b]pyridine-5-carbonitrile | C(C)(C)C1=C2C(=NC(=C1)C#N)C(=NN2C)C | C12H14N4
reactant | THF | C1CCOC1 | C4H8O
reactant | HCl | 25 mL | Cl | ClH
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | C-(7-Isopropyl-1,3-dimethyl-1H-pyrazolo[4,3-b]pyridin-5-yl)-methylamine | C(C)(C)C1=C2C(=NC(=C1)CN)C(=NN2C)C | C12H18N4
